US04051261
Following the above procedure, but using an equivalent amount of α-acetoxy-2-chloro-4-pivaloyl-toluene in plce of the α-acetoxy-p-pivaloyl-toluene, there is obtained 2-chloro-4-pivaloyl-benzyl alcohol.

reactant | α-acetoxy-2-chloro-4-pivaloyl-toluene | C(C)(=O)OCC1=C(C=C(C=C1)C(C(C)(C)C)=O)Cl | C14H17ClO3
reactant | α-acetoxy-p-pivaloyl-toluene | C(C)(=O)OCC1=CC=C(C=C1)C(C(C)(C)C)=O | C14H18O3
product | 2-chloro-4-pivaloyl-benzyl alcohol | ClC1=C(CO)C=CC(=C1)C(C(C)(C)C)=O | C12H15ClO2
